US09278931B2
C) trans-2-[4-(benzoylamino)-3-methylphenyl]cyclopropanecarboxylic acid
To a solution of ethyl trans-2-[4-(benzoylamino)-3-methylphenyl]cyclopropanecarboxylate (1.29 g) in ethanol (7.98 mL) was added 1N aqueous sodium hydroxide solution (7.98 mL). The reaction mixture was stirred at 50° C. for 6.5 hr, 1N hydrochloric acid (10 mL) was added under ice-cooling, and the mixture was stirred under ice-cooling for 1 hr. The precipitate was collected by filtration to give the title compound (576.9 mg).

reactant | ethyl trans-2-[4-(benzoylamino)-3-methylphenyl]cyclopropanecarboxylate | 1.29 g | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C=C1)[C@H]1[C@@H](C1)C(=O)OCC)C | C20H21NO3
reactant | sodium hydroxide | 1N, 7.98 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | ethanol | 7.98 mL | C(C)O | C2H6O
product | trans-2-[4-(benzoylamino)-3-methylphenyl]cyclopropanecarboxylic acid | 576.9 mg | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C=C1)[C@H]1[C@@H](C1)C(=O)O)C | C18H17NO3
